US06734181B2
7-(4-Fluorobenzyloxy)-3-formyl-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine
To a solution of 7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine (64.3 g, 181 mmol) in methylene chloride (900 ml) was added activated manganese dioxide (472 g, 5.43 mol) at room temperature. The mixture was stirred at room temperature for 18 hours. The reaction mixture was filtered through celite (trade mark) and the filtrate was concentrated in vacuo. The crude crystals (45.7 g) were washed with ethyl acetate and hexane to give the title compound (44.3 g, 69%) as pale yellow crystals.

reactant | 7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine | 181 mmol, 64.3 g | FC1=CC=C(COC=2N=NC=C3C2N(C(=C3CO)C)C[C@@H]3[C@H](C3)C)C=C1 | C20H22FN3O2
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.43 mol, 472 g | [O-2].[O-2].[Mn+4]
product | 7-(4-Fluorobenzyloxy)-3-formyl-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine | 44.3 g, 69% | FC1=CC=C(COC=2N=NC=C3C2N(C(=C3C=O)C)C[C@@H]3[C@H](C3)C)C=C1 | C20H20FN3O2
